US04923861
(E)-Methyl-3-[2-(dimethylamino)-4-(4-fluorophenyl)-3-quinolinyl]-2-propenoate (4.60 g) is dissolved in 40 ml of dichloromethane at -78° C. under an atmosphere of nitrogen. A 1 M solution of diisobutylaluminum hydride (DIBAL) (29 ml, 2.2 equivalents), in dichloromethane is added dropwise, the reaction stirred for one hour, and quenched by adding 15 ml of an aqueous saturated solution of sodium sulfate and removing the cooling bath. The reaction mixture is filtered through Celite and the filtrate dried (magnesium sulfate) and evaporated to give 4.61 g of (E)-3-[2-(dimethylamino)-4-(4-fluorophenyl)-3-quinolinyl]-2-propen-1-ol as an orange oil; 1H NMR (chloroform-d): δ 7.72 (d, 1H), 7.50-7.30 (m, 1H), 7.20-6.98 (m, 6H), 6.31 (d, 1H), 5.72 (dt, 1H), 3.99 (bd, 2H), 2.96 (s, 6H), 1.54 (bs, 1H) ppm.

reactant | (E)-Methyl-3-[2-(dimethylamino)-4-(4-fluorophenyl)-3-quinolinyl]-2-propenoate | 4.60 g | COC(\C=C\C=1C(=NC2=CC=CC=C2C1C1=CC=C(C=C1)F)N(C)C)=O | C21H19FN2O2
reactant | diisobutylaluminum hydride | 29 ml, 2.2 equivalents | [H-].C(C(C)C)[Al+]CC(C)C
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | (E)-3-[2-(dimethylamino)-4-(4-fluorophenyl)-3-quinolinyl]-2-propen-1-ol | 4.61 g | CN(C1=NC2=CC=CC=C2C(=C1/C=C/CO)C1=CC=C(C=C1)F)C | C20H19FN2O
